US09145392B2
6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(2-(trifluoromethyl)pyridin-4-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(2,2,2-trifluoroethoxy)pyrimidin-4-amine (“118”)
The title compound was prepared in an analogous manner as 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(2-(trifluoromethyl)pyridin-4-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-methoxypyrimidin-4-amine using 6-chloro-5-(2,2,2-trifluoroethoxy)pyrimidin-4-amine instead of 6-Chloro-5-methoxy-pyrimidin-4-ylamine. LC-MS: (M+1=571, obsd.=571).

reactant | 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(2-(trifluoromethyl)pyridin-4-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-methoxypyrimidin-4-amine | N1(CCC1)CCN1C(=NC(=C1)C1=CC(=NC=C1)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)OC | C24H29F3N8O
reactant | 6-chloro-5-(2,2,2-trifluoroethoxy)pyrimidin-4-amine | ClC1=C(C(=NC=N1)N)OCC(F)(F)F | C6H5ClF3N3O
product | 6-(4-(1-(2-(azetidin-1-yl)ethyl)-4-(2-(trifluoromethyl)pyridin-4-yl)-1H-imidazol-2-yl)piperidin-1-yl)-5-(2,2,2-trifluoroethoxy)pyrimidin-4-amine | N1(CCC1)CCN1C(=NC(=C1)C1=CC(=NC=C1)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)OCC(F)(F)F | C25H28F6N8O
